US04634710
2.6 g of 5,7-dihydro-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one were dissolved in 50 ml of hot methanol and the solution was boiling under reflux for 10 minutes with 50 ml of a 4N solution of hydrogen chloride in methanol. After concentration in vacuo the residue was crystallized from ether and there was obtained 5,7-dihydro-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one dihydrochloride of melting point 165°-170°.

reactant | 5,7-dihydro-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | 2.6 g | COC1=C(C(=NC=C1C)CSC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C)C | C23H27N3O2S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5,7-dihydro-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one dihydrochloride | Cl.Cl.COC1=C(C(=NC=C1C)CSC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C)C | InChI=1S/C23H27N3O2S.2ClH/c1-12-10-24-18(13(2)19(12)28-7)11-29-21-25-16-8-14-15(9-17(16)26-21)23(5,6)20(27)22(14,3)4;;/h8-10H,11H2,1-7H3,(H,25,26);2*1H
